US05834463
(3aR*,10aS*)-9-Benzyl-4-((benzylamino)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-benzyl-4-(chloroacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one (1.0 g, 2.7 mmol) and benzylamine (1.45 g, 13.6 mmol) in ethanol (30 mL) was added potassium carbonate (560 mg, 4.1 mmol), and the mixture was refluxed for 17 hours. The solvent was distilled off. To the residue was added water, which was subjected to extraction with dichloromethane. The extract was washed with water, dried and, then, the solvent was distilled off. The residue was purified by silica-gel column chromatography (ethyl acetate-hexane 1:1), followed by crystallization from diethyl-ether to give 0.36 g (yield 30%), m.p. 95-98° C.

reactant | (3aR*,10aS*)-9-benzyl-4-(chloroacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]-cyclopenta[e][1,4]diazepin-10(1H)-one | 2.7 mmol, 1.0 g | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CCl)=O)C=CC=C2 | C21H21ClN2O2
reactant | benzylamine | 13.6 mmol, 1.45 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 4.1 mmol, 560 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | (3aR*,10aS*)-9-Benzyl-4-((benzylamino)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | yield 30% | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CNCC3=CC=CC=C3)=O)C=CC=C2 | C28H29N3O2
